US07176212B2
2-Anilino-4-hydroxypyrimidine
2-Methylthio-4-hydroxypyrimidine (1.42 g, 10 mmol) was dissolved in 2-methoxyethylether (10 ml). To this solution was added aniline (910 μl, 10 mmol) and the reaction mixture heated at 160° C. for 18 hours. The resulting precipitate was filtered off and washed with diethyl ether (10 ml), water (10 ml), diethyl ether (2×10 ml) and dried under vacuum to give the title product as a colourless solid (1.296 g, 69%). NMR (300 MHz): 5.79, (d, 1H), 6.99 (t, 1H), 7.24 (m, 2H), 7.57 (m, 2H), 7.73 (m, 1H), 8.80 (br, 1H); m/z: (ES+) 188.1 (MH+).

reactant | 2-Methylthio-4-hydroxypyrimidine | 10 mmol, 1.42 g | CSC1=NC=CC(=N1)O | C5H6N2OS
reactant | aniline | 10 mmol, 910 μl | NC1=CC=CC=C1 | C6H7N
solvent | 2-methoxyethylether | 10 ml | COCCOCCOC | C6H14O3
product | 2-Anilino-4-hydroxypyrimidine | 1.296 g, 69% | N(C1=CC=CC=C1)C1=NC=CC(=N1)O | C10H9N3O
